US06936602B1
In toluene (30 ml), ethanol (3 ml) and water (3 ml) were suspended 7-bromo-1-(2-thienylmethyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid (500 mg), 4-propoxyethoxyphenyl borate (615 mg) and potassium carbonate (949 mg), and the suspension was stirred under argon atmosphere for 30 minutes. Then, to the suspension was added tetrakistriphenylphosphinepalladium (111 mg), and the mixture was heated under argon atmosphere at 100° C. for 6 hours. After allowing to cool, water was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. The solvent was evaporated under reduced pressure and the resulting residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:1), which was recrystallized from hexane-ethyl acetate to give 7-(4-propoxyethoxyphenyl)-1-(2-thienylmethyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid (269 mg).

reactant | ethanol | 3 ml | C(C)O | C2H6O
reactant | 7-bromo-1-(2-thienylmethyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid | 500 mg | BrC=1C=CC2=C(C=C(CCN2CC=2SC=CC2)C(=O)O)C1 | C16H14BrNO2S
reactant | 4-propoxyethoxyphenyl borate | 615 mg | B(OC1=CC=C(C=C1)OCCOCCC)([O-])[O-]
reactant | potassium carbonate | 949 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakistriphenylphosphinepalladium | 111 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 3 ml | O | H2O
product | 7-(4-propoxyethoxyphenyl)-1-(2-thienylmethyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid | 269 mg | C(CC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2CC=2SC=CC2)C(=O)O)C1 | C27H29NO4S
